US07786104B2
12.3 N-[6-(3-Azabicyclo[3.1.0]hex-3-yl)pyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide (Compound no. 28).
The process is carried out according to the method described in example 2, using 0.15 g (0.52 mmol) of 5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxylic acid and 0.1 g (0.57 mmol) of 2-(3-azabicyclo[3.1.0]hex-3-yl)-5-aminopyridine, prepared in step 12.2. 0.17 g of the expected product is thus isolated.

reactant | 5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxylic acid | 0.52 mmol, 0.15 g | FC=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)F)C(=O)O | C16H11F2NO2
reactant | 2-(3-azabicyclo[3.1.0]hex-3-yl)-5-aminopyridine | 0.57 mmol, 0.1 g | C12CN(CC2C1)C1=NC=C(C=C1)N | C10H13N3
product | N-[6-(3-Azabicyclo[3.1.0]hex-3-yl)pyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide | 0.17 g | C12CN(CC2C1)C1=CC=C(C=N1)NC(=O)C=1N(C2=CC=C(C=C2C1)F)CC1=CC(=CC=C1)F | C26H22F2N4O
